US06800785B1
A solution of 2-butyl-5-(methoxymethoxy)-2-(4-pentenyl)-1-indanone (400 mg, 1.27 mmol) in anhydrous tetrahydrofuran (THF, 5 mL) was placed under a N2 atmosphere, cooled in a dry ice-acetone bath, stirred, and treated with 2-propenyl magnesium bromide, (1M in THF, 1.9 mL, 1.9 mmol). After warming to room temperature, the mixture was treated with additional 2-propenyl magnesium bromide (1M in THF, 6 mL, 6 mmol) and stirred at room temperature overnight. The mixture was quenched with saturated aqueous NH4Cl, dried over MgSO4, filtered through a pad of silica, and concentrated under vacuum to afford an oil. The crude product was purified by Biotage™ (Charlottesville, Va.) flash chromatography on a 40S (4.0×7.0 cm) silica gel column, eluting with 19:1 hexanes-EtOAc. The product-containing fractions were evaporated under vacuum to afford 2-butyl-1-isopropenyl-5-(methoxymethoxy)-2-(4-pentenyl)-1-indanol as an oil.

reactant | 2-butyl-5-(methoxymethoxy)-2-(4-pentenyl)-1-indanone | 1.27 mmol, 400 mg | C(CCC)C1(C(C2=CC=C(C=C2C1)OCOC)=O)CCCC=C | C20H28O3
reactant | 2-propenyl magnesium bromide | C(C=C)[Mg]Br
reactant | 2-propenyl magnesium bromide | 6 mmol, 1M, 6 mL | C(C=C)[Mg]Br
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
product | 2-butyl-1-isopropenyl-5-(methoxymethoxy)-2-(4-pentenyl)-1-indanol | C(CCC)C1(C(C2=CC=C(C=C2C1)OCOC)(O)C(=C)C)CCCC=C | C23H34O3
